US04921962
Bis-(1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate
A 2-phase mixture of 85.7 g (0.666 mol) of 70% aqueous tert-butyl hydroperoxide, 250 ml of ethylbenzene and 10 g of sodium chloride is agitated in a separatory funnel. The organic layer is dried over anhydrous magnesium sulfate. A mixture of 40.0 g (0.0832 mol) of bis-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate and the tert-butyl hydroperoxideethylbenzene solution is heated to reflux (136° C.) under a nitrogen atmosphere. To this mixture is added over a 5-minute period, a solution of 5.0 g of titanium tetrabutoxide in 35 ml of ethylbenzene. The reaction mixture becomes red and water is collected in a Dean-Stark trap. The reaction mixture is heated at reflux for 18 hours. The red color remains. The solids are then removed by filtration, and the filtrate is concentrated under reduced pressure to give a red oil. The oil is dissolved in heptane (100 ml) and passed through a short column of silica gel with additional heptane. Further purification (Waters Prep 500A HPLC; 29:1 heptane:ethyl acetate) affords 4.0 g (7% yield) of the title compound as a cloudy, colorless syrup.

reactant | tert-butyl hydroperoxide | 0.666 mol, 85.7 g | C(C)(C)(C)OO | C4H10O2
reactant | sodium chloride | 10 g | [Cl-].[Na+]
reactant | bis-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate | 0.0832 mol, 40.0 g | C(CCCCCCCCC(=O)OC1CC(NC(C1)(C)C)(C)C)(=O)OC1CC(NC(C1)(C)C)(C)C | C28H52N2O4
solvent | ethylbenzene | 35 ml | C(C)C1=CC=CC=C1 | C8H10
solvent | heptane | 100 ml | CCCCCCC | C7H16
catalyst | titanium tetrabutoxide | 5.0 g | [O-]CCCC.[O-]CCCC.[O-]CCCC.[O-]CCCC.[Ti+4]
solvent | ethylbenzene | 250 ml | C(C)C1=CC=CC=C1 | C8H10
product | Bis-(1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate | 4.0 g, 7% yield | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C)(=O)OC1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C | C44H68N2O6
